US05872137
To a mixture of 0.62 g of 2,6-dichloro-4-(3,3,-dichloro-2-propenyloxy)phenol, 0.33 g of potassium carbonate and 20 ml of N,N-dimethylformamide was added dropwise a solution of 0.43 g of cinnamyl bromide dissolved in 5 ml of N,N-dimethylformamide, while stirring at room temperature. After stirring at room temperature for 7 hours, the reaction mixture was poured into ice-water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 0.70 g of 3,5-dichloro-4-(cinnamyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (80% yield), m.p. 51.3° C.

reactant | 2,6-dichloro-4-(3,3,-dichloro-2-propenyloxy)phenol | 0.62 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl bromide | 0.43 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3,5-dichloro-4-(cinnamyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.70 g, 80% yield | ClC=1C=C(C=C(C1OCC=CC1=CC=CC=C1)Cl)OCC=C(Cl)Cl | C18H14Cl4O2
